US07576115B2
Synthesis of oxo[3-(trifluoromethyl)phenyl]acetaldehyde
3-Trifluoromethylacetophenone (11.80 mmol, 2.22 g) was dissolved in dimethyl sulfoxide (13 mL), and 48% hydrobromic acid (5.4 mL) was gradually added at room temperature. After overnight stirring at 70° C., the reactor was cooled to room temperature. After addition of water, the reaction solution was extracted with chloroform, and the extract was dried and filtered, and the solvent was evaporated to give the desired product as a yellow liquid (3.04 g (crude), yield 128%).

reactant | 3-Trifluoromethylacetophenone | 11.80 mmol, 2.22 g | CC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H7F3O
reactant | hydrobromic acid | 5.4 mL | Br | BrH
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 13 mL | CS(=O)C | C2H6OS
product | oxo[3-(trifluoromethyl)phenyl]acetaldehyde | 3.04 g, yield 128% | O=C(C=O)C1=CC(=CC=C1)C(F)(F)F | C9H5F3O2
